scheMAGIC Simulator document 42db3dffbdb8ecf0
* document-hash 42db3dffbdb8ecf0
V1 n1 0 PULSE(0 5 200u 10u 10u 2m 5m) $ component:c1
R2 n1 line_in 50 $ component:c2
T3 line_in 0 line_out 0 Z0=50 TD=1m $ component:c3
R4 line_out 0 50 $ component:c4
.save all v1#branch @r2[i] @r4[i]
.tran 0.00001 0.005 0 0.00002
.end
